US05569653
(B) [4-(1H-Indazol-3-yl)-1-piperazinyl]acetonitrile
To a stirred suspension of 3-piperazin-1-yl-1H-indazole (6.0 g, 29.7 mmol) and NaHCO3 (2.7 g, 32.7 mmol) in dry acetonitrile (125 ml) was added chloroacetonitrile (2.1 ml, 31.2 mmol) at room temperature, under nitrogen. The suspension was warmed to reflux for 17.5 hours, cooled to room temperature, and subsequently filtered. The remaining solids were washed with dichloromethane and the combined filtrates were concentrated. The resulting brown oil was purified via flash column chromatography (silica gel, 0°-50% EtOAc/DCM) to give 4.0 g of product as an off-white solid, m.p. 121°-123° C.

reactant | 3-piperazin-1-yl-1H-indazole | 29.7 mmol, 6.0 g | N1(CCNCC1)C1=NNC2=CC=CC=C12 | C11H14N4
reactant | NaHCO3 | 32.7 mmol, 2.7 g | C(=O)(O)[O-].[Na+]
reactant | chloroacetonitrile | 31.2 mmol, 2.1 ml | ClCC#N | C2H2ClN
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | [4-(1H-Indazol-3-yl)-1-piperazinyl]acetonitrile | 4.0 g | N1N=C(C2=CC=CC=C12)N1CCN(CC1)CC#N | C13H15N5
